US08754242B2
To a stirred solution of 5-chloro-2-(2,6-diethyl-4-methylphenyl)-3-methoxycyclopent-2-enone (0.530 g, 1.81 mmol) in furan (40 ml) at room temperature is added by syringe pump over two hours a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (0.540 ml, 3.62 mmol) in furan (10 ml). The reaction is stirred at room temperature for a further 30 minutes and then evaporated to dryness under reduced pressure. The residue is diluted with water (50 ml), 2 M aqueous hydrochloric acid (25 ml) is added and the mixture is extracted with ethyl acetate (3×50 ml). The combined organic extracts are washed with brine (20 ml), dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated to dryness under reduced pressure. The residue is purified by column chromatography on silica gel to give (1RS,2RS,6SR,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]deca-4,8-dien-3-one.

reactant | 5-chloro-2-(2,6-diethyl-4-methylphenyl)-3-methoxycyclopent-2-enone | 1.81 mmol, 0.530 g | ClC1CC(=C(C1=O)C1=C(C=C(C=C1CC)C)CC)OC | C17H21ClO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.62 mmol, 0.540 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | furan | 40 ml | O1C=CC=C1 | C4H4O
reactant | furan | 10 ml | O1C=CC=C1 | C4H4O
product | (1RS,2RS,6SR,7SR)-4-(2,6-diethyl-4-methylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]deca-4,8-dien-3-one | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(C2C3C=CC(C2C1OC)O3)=O | C21H24O3
